US05486466
To a suspension of 5.5 g of L-cysteine methyl ester hydrochloride in 80 ml of dioxane were added 3.6 g of 4-methylmorpholine and 7.0 g of di-tert-butyl-dicarbonate. After being stirred at 20° C. for 15 hours, the mixture was poured into ice-cold 0.2N hydrochorid acid, and the product was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residual oil was chromatographed on silica gel using ethyl acetate/hexane (1:4, v/v) as eluent to yield 2.87 g of N-(tert-butoxycarbonyl-L-cysteine methyl ester as an oil.

reactant | L-cysteine methyl ester hydrochloride | 5.5 g | Cl.COC([C@@H](N)CS)=O
reactant | 4-methylmorpholine | 3.6 g | CN1CCOCC1 | C5H11NO
reactant | di-tert-butyl-dicarbonate | 7.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | tert-butoxycarbonyl-L-cysteine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C9H17NO4S
